US05686482
In a stream of argon, 0.45 g of sodium methanethiolate was added to 5 ml of dimethyl sulfoxide at room temperature, and 0.50 g of 4-chloro-5-nitro-2-methoxybenzoic acid was added in small portions, followed by 2 hours of stirring. After completion of the reaction, the reaction solution was poured into 1N hydrochloric acid aqueous solution, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 0.45 g of 2-methoxy-4-methylthio-5-nitrobenzoic acid.

reactant | sodium methanethiolate | 0.45 g | C[S-].[Na+]
reactant | 4-chloro-5-nitro-2-methoxybenzoic acid | 0.50 g | ClC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C8H6ClNO5
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 2-methoxy-4-methylthio-5-nitrobenzoic acid | 0.45 g | COC1=C(C(=O)O)C=C(C(=C1)SC)[N+](=O)[O-] | C9H9NO5S
